US04599327
(±)-2-Methoxy-9-[(2RS)-5-methoxy-2-pentyl]-3,4,5,6-tetrahydro -5-isopropylidene-2,6-methano-2H-1- benzoxocin-7-o1
1.05 g. of 1,3-dihydroxy-5-(5-methoxy-2-pentyl)- benzene and 1.06 g. (6 mmoles) of 1-(2-hydroxy-2-propyl)- 4methoxy-1,4-cyclohexadiene [R.A. Archer et. al. J. Org. Chem., 42, 2277 (1977)]are dissolved in 25 ml. of abs. benzene. 0.5 ml. (3.4 mmoles) of borontrifluoride etherate are added and the mixture is stirred at room temperature for 5 hours. Further 0.40 g. (2.4 mmoles) diene are added and the mixture is stirred overnight. The solution is poured off from the precipitated gum and extracted with 3 ×10 ml. of 1 N sodium hydroxide. The benzene solution is dried, evaporated and the residue is chromatographed on a column with a 8.1 mixture of benzene: ethyl acetate. The product is a colorless resin.

reactant | 1,3-dihydroxy-5-(5-methoxy-2-pentyl)- benzene | OC1=CC(=CC(=C1)C(C)CCCOC)O | C12H18O3
reactant | 1-(2-hydroxy-2-propyl)- 4methoxy-1,4-cyclohexadiene | 6 mmoles | OC(C)(C)C1=CCC(=CC1)OC | C10H16O2
reactant | borontrifluoride etherate | 3.4 mmoles | B(F)(F)F.CCOCC
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (±)-2-Methoxy-9-[(2RS)-5-methoxy-2-pentyl]-3,4,5,6-tetrahydro -5-isopropylidene-2,6-methano-2H-1- benzoxocin-7-o1 | COC12OC=3C(C(C(CC1)=C(C)C)C2)=C(C=C(C3)C(C)CCCOC)O | C22H32O4
